US08487109B2
1-(4-Cyclohex-1-enylethynyl-3-methoxy-phenyl)ethanone
This product was prepared from toluene-4-sulfonic acid 4-acetyl-2-methoxy-phenyl ester and 1-ethynyl-cyclohexene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: DCM; yield (114 mg, 90%); 1H NMR δ (CDCl3): 7.53-7.41 (m, 3H), 6.29 (m, 1H), 3.92 (s, 3H), 2.51 (s, 3H), 2.31-2.12 (dm, 4H), 1.73-1.57 (m, 4H); LCMS m/z: 254.

reactant | toluene-4-sulfonic acid 4-acetyl-2-methoxy-phenyl ester | C(C)(=O)C1=CC(=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C)OC | C16H16O5S
reactant | 1-ethynyl-cyclohexene | C(#C)C1=CCCCC1 | C8H10
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(4-Cyclohex-1-enylethynyl-3-methoxy-phenyl)ethanone | C1(=CCCCC1)C#CC1=C(C=C(C=C1)C(C)=O)OC | C17H18O2
